US08536197B2
(240a) Ethyl 2-{4-[(tert-butoxycarbonyl)(methyl)amino]piperidin-1-yl}-4-methyl-1,3-thiazole-5-carboxylate
The same operation as in Example (217a) was performed using 4-[(tert-butoxycarbonyl)(methyl)amino]piperidine (386 mg, 1.80 mmol), ethyl 2-bromo-4-methylthiazole-5-carboxylate (300 mg, 1.20 mmol) and diisopropylethylamine (0.42 mL, 2.40 mmol), to obtain 403 mg of the title compound as a colorless oily substance (88%).

reactant | 4-[(tert-butoxycarbonyl)(methyl)amino]piperidine | 1.80 mmol, 386 mg | C(C)(C)(C)OC(=O)N(C1CCNCC1)C | C11H22N2O2
reactant | ethyl 2-bromo-4-methylthiazole-5-carboxylate | 1.20 mmol, 300 mg | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | diisopropylethylamine | 2.40 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Ethyl 2-{4-[(tert-butoxycarbonyl)(methyl)amino]piperidin-1-yl}-4-methyl-1,3-thiazole-5-carboxylate | 403 mg | C(C)(C)(C)OC(=O)N(C1CCN(CC1)C=1SC(=C(N1)C)C(=O)OCC)C | C18H29N3O4S
